US06677348B2
4-(2-methyl-1H-imidazo[4.5-c]quinolin-1-yl)butyl (Prop-2-ynyl) Ether
To 4-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-butanol (1 g, 3.917 mmol), dichloromethane (14 mL), sodium hydroxide (14 mL of 50%), and benzyltrimethylammonium chloride (0.15 g, 0.783 mmol) were combined with stirring. Propargyl bromide (1.3 mL of 80% in toluene, 11.75 mmol) was added to the resulting mixture at ambient temperature. After the resulting reaction mixture was allowed to stir at ambient temperature for 1 hour, TLC analysis using 9/1 dichloromethane/methanol indicated incomplete reaction. After 18 hours HPLC monitoring indicated complete reaction. The two reaction layers were separated. The organic layer was washed with water (3×100 mL). All aqueous layers were combined and extracted with dichloromethane (3×100 mL). All organic layers were combined and washed with brine (3×100 mL). The brine layers were combined and extracted with dichloromethane (3×100 ML). All resulting organic layers were combined, dried with sodium sulfate, filtered, and concentrated under reduced pressure. HNMR analysis of the resulting dark oil was consistent with the desired product and some residual solvent. HPLC and LC/MS were consistent with the desired product (1.1 g) that was of sufficient purity for use in the next step.

reactant | 4-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-butanol | 3.917 mmol, 1 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCO | C15H17N3O
reactant | dichloromethane | 14 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 14 mL | [OH-].[Na+]
reactant | Propargyl bromide | 11.75 mmol, 1.3 mL | C(C#C)Br | C3H3Br
catalyst | benzyltrimethylammonium chloride | 0.783 mmol, 0.15 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(2-methyl-1H-imidazo[4.5-c]quinolin-1-yl)butyl (Prop-2-ynyl) Ether | C(C#C)OCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)C | C18H19N3O
